US04543360
2-(4-Methoxy-phenyl)-6-methoxy-indole
A solution of 33 grams (0.16 mole) of 4-methoxy-bromacetophenone in 230 ml of xylene was dropped into a mixture of 54.5 grams (0.45 mole) of m-anisidine and 76 ml of N,N-dimethyl aniline which was heated to 170° C. bath temperature. After cooling the mixture was treated with ethyl acetate and extracted by shaking with 2N HCl. The aqueous phase was again terated with ethyl acetate and the combined organic phases extracted by shaking several times with 2N HCl. After washing with water and drying the solvent was removed in a vacuum. The crystalline residue was washed colorless with a little ethyl acetate. Yield: 18.8 grams, M.P. 228°-230° C.

reactant | m-anisidine | 0.45 mole, 54.5 grams | COC1=CC(=CC=C1)N | C7H9NO
reactant | N,N-dimethyl aniline | 76 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | xylene | 230 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-Methoxy-phenyl)-6-methoxy-indole | COC1=CC=C(C=C1)C=1NC2=CC(=CC=C2C1)OC | C16H15NO2
